US03950331
Preparation of Trisodium α-(2-Hydroxyethylamino)-β-Sulfosuccinate
Sulfomaleic anhydride (prepared from a 1/1 mole ratio of SO3 /maleic anhydride by heating the mixture at 100°-110°C for 3 hours; active content, 86%), 20.7 gm (0.1 mole), was added to 100 gm of ice. The resulting solution was kept at 10°-15°C and neutralized to pH = 8.6 by slowly adding 28.4 gm of 50% sodium hydroxide. Monoethanolamine, 6.1 gm (0.1 mole), was next added slowly and the temperature allowed to rise to room temperature. After standing overnight, the reaction mixture was poured into 800 ml of acetone. The solvent was then decanted from the resulting syrupy lower layer and the latter reprecipitated three times from water with fresh acetone. The residue was then dried in a dessicator over P2O5 to give 38.8 gm of an off-white, granular product containing approximately 88% trisodium α-(12-hydroxyethylamino)-β-sulfosuccinate by titration with perchloric acid. The structure was confirmed by NMR analysis.

reactant | Sulfomaleic anhydride | S(=O)(=O)(O)/C=1/C(=O)OC(\C1)=O | C4H2O6S
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium hydroxide | 28.4 gm | [OH-].[Na+]
reactant | Monoethanolamine | C(O)CN | C2H7NO
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetone | 800 ml | CC(=O)C | C3H6O
product | Trisodium α-(2-Hydroxyethylamino)-β-Sulfosuccinate | OCCNC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O.[Na+].[Na+].[Na+] | InChI=1S/C6H11NO8S.3Na/c8-2-1-7-3(5(9)10)4(6(11)12)16(13,14)15;;;/h3-4,7-8H,1-2H2,(H,9,10)(H,11,12)(H,13,14,15);;;/q;3*+1/p-2
